US08633173B2
N(8)-(2-Methanesulfonylmethyl-phenyl)-N(2)-[4-(1-methyl-piperidin-4-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine (75.0 mg, 0.223 mmol) and 4-(1-methyl-piperidin-4-yl)-phenylamine (47.0 mg, 0.247 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.016 g, 15%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.97 (d, J=6.6 Hz, 1H), 7.74 (s, 1H), 7.59-7.52 (m, 3H), 7.44-7.37 (m, 2H), 7.23-7.15 (m, 3H), 6.87-6.84 (m, 2H), 6.69 (t, J=7.3 Hz, 1H), 4.45 (s, 2H), 3.01-2.93 (m, 5H), 2.50-2.40 (m, 1H), 2.32 (s, 3H), 2.09-2.01 (m, 2H), 1.87-1.74 (m, 4H). MS=491 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine | 0.223 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)CS(=O)(=O)C)=N1 | C14H13ClN4O2S
reactant | 4-(1-methyl-piperidin-4-yl)-phenylamine | 0.247 mmol, 47.0 mg | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonylmethyl-phenyl)-N(2)-[4-(1-methyl-piperidin-4-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)CC1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)C | C26H30N6O2S
